* C:\users\laurobrizidio\My Documents\LTspice\LTSpice_porta_or_tres_entradas.asc
* Generated by LTspice 26.0.1 for Windows.
D1 N001 OUTPUT 1N5817
D2 N002 OUTPUT 1N5817
V1 N001 0 PULSE(0 5 0 10n 10n 2.5m 5m)
R1 OUTPUT 0 200 tol=1 pwr=0.1
V2 N002 0 PULSE(0 5 1m 10n 10n 2.5m 5m)
V3 N003 0 PULSE(0 5 4m 10n 10n 2.5m 5m)
D3 N003 OUTPUT 1N5817
.model D D
.lib C:\users\laurobrizidio\Local Settings\Application Data\LTspice\lib\cmp\standard.dio
* PORTA OR COM TRES ENTRADAS
* Unidade 03 Cap. 01 - LTSpice com Diodos
.tran 20m
.backanno
.end
